US04038065
To a mixture of 1-isobutyl-3-cyano-4,6-dimethylpyrid-2-one (99.8 g., 0.489 mole) and 100 ml. of water is slowly added, with stirring, concentrated sulfuric acid (200 ml.) When the addition of complete the reaction mixture is heated on a steam bath for 24 hours. The solution is then poured into a sodium hydroxide solution and filtered. The alkaline filtrate is acidified and the resulting solid is then collected by filtration to give 1-isobutyl-3-carboxy-4,6-dimethylpyrid-2-one, 44.5 g. (40.6% yield), mp 93°-95° C.

reactant | 1-isobutyl-3-cyano-4,6-dimethylpyrid-2-one | 0.489 mole, 99.8 g | C(C(C)C)N1C(C(=C(C=C1C)C)C#N)=O | C12H16N2O
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-isobutyl-3-carboxy-4,6-dimethylpyrid-2-one | 40.6% yield | C(C(C)C)N1C(C(=C(C=C1C)C)C(=O)O)=O | C12H17NO3
